US06521658B1
(3,4,5-trimethoxyphenyl) 4-methoxybenzenesulfonate
3,4,5-trimethoxyphenol (504 mg) was processed as described in Example 43 (substituting 4-methoxybenzenesulfonyl chloride for 4-methoxymetanilyl fluoride) to provide 500 mg of the desired product.

reactant | 3,4,5-trimethoxyphenol | 504 mg | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | 4-methoxymetanilyl fluoride | COC1=C(C=C(C=C1)S(=O)(=O)F)N | C7H8FNO3S
product | (3,4,5-trimethoxyphenyl) 4-methoxybenzenesulfonate | 500 mg | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C(=C1)OC)OC)OC | C16H18O7S
